US08039474B2
a) 2,3,4,9-Tetrahydro-1H-carbazole-3-carboxylic acid
A mixture of 4-oxo-cyclohexanecarboxylic acid (4.05 g, 28.5 mmol) and phenylhydrazine hydrochloride (4.12 g, 28.5 mmol) in EtOH (200 ml) is stirred at reflux for 3 h. Then, the solvent is evaporated and the residue is dissolved in boiling toluene. Precipitating ammonium chloride is filtered off and the clear filtrate is cooled to rt. The resulting precipitate is filtered and tried under high vacuum to give pure subtitle compound as a white solid (5.16 g) in 84% yield. tR (LC-3) 2.21 min; ESI-MS (positive ion): m/z 216.30 [M+H]+(calcd 215.09 for C13H13NO2). 1H-NMR (CDCl3): 2.01 (m, 1H); 2.28 (m, 1H); 2.83 (m, 4H); 3.04 (dd, J=14.8 Hz, 4.7 Hz, 1H); 7.02 (m, 2H); 7.19 (d, J=7.2 Hz, 1H); 7.38 (d, J=7.0 Hz, 1H); 7.63 (s br, 1H).

reactant | 4-oxo-cyclohexanecarboxylic acid | 28.5 mmol, 4.05 g | O=C1CCC(CC1)C(=O)O | C7H10O3
reactant | phenylhydrazine hydrochloride | 28.5 mmol, 4.12 g | Cl.C1(=CC=CC=C1)NN
solvent | EtOH | 200 ml | CCO | C2H6O
product | 2,3,4,9-Tetrahydro-1H-carbazole-3-carboxylic acid | 5.16 g, 84% yield | C1CC(CC=2C3=CC=CC=C3NC12)C(=O)O | C13H13NO2
